US08242133B2
To a mixture of 2.0 g of 3-chloroisonicotinonitrile and 8 ml of DMF, 1.02 g of sodium thiomethoxide was added while ice-cooling. The reaction mixture was stirred at 0° C. for one hour. The reaction mixture was concentrated under reduced pressure, to which ethyl acetate was added for filtering out insoluble matters. Filtrates were concentrated under reduced pressure, and the resultant residue was subjected to silica gel column chromatography to give 2.11 g of 3-methylthioisonicotinonitrile.

reactant | 3-chloroisonicotinonitrile | 2.0 g | ClC1=C(C#N)C=CN=C1 | C6H3ClN2
reactant | sodium thiomethoxide | 1.02 g | C[S-].[Na+]
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | 3-methylthioisonicotinonitrile | 2.11 g | CSC1=C(C#N)C=CN=C1 | C7H6N2S
